US08980904B2
4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylic acid (2.2 g, 6.47 mmol), benzylamine (1.0 g, 9.34 mmol) and HATU (2.95 g, 7.76 mmol) were dissolved in 60 mL of THF, DIEA (N,N-diiso-propylethylamine, 3.36 mL, 19.41 mmol) was added dropwise, reacted at room temperature for 8 h. To the reaction solution was added 100 mL of water and then extracted with dichloromethane (50 mL×3), dried with anhydrous sodium sulfate, dried by rotation, the solid was separated with silica gel column (dichloromethane:methanol=100:1) to obtain a white solid N-benzyl-4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxamide 600 mg, 22% yield.

reactant | 4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxylic acid | 6.47 mmol, 2.2 g | ClC=1C=C(COC2=NC(=NC=C2C(=O)O)SC)C=CC1OC | C14H13ClN2O4S
reactant | benzylamine | 9.34 mmol, 1.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | HATU | 7.76 mmol, 2.95 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 19.41 mmol, 3.36 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | N-benzyl-4-(3-chloro-4-methoxybenzyloxy)-2-(methylmercapto)pyrimidine-5-carboxamide | 600 mg, 22% yield | C(C1=CC=CC=C1)NC(=O)C=1C(=NC(=NC1)SC)OCC1=CC(=C(C=C1)OC)Cl | C21H20ClN3O3S
